US04681940
A. 4,5-Dihydro-5-(3-hydroxyphenyl)-2-(2-thienyl)-1,3-oxazole
A mixture of (±) norphenylephrine hydrochloride (10 g, 0.05 mol), ethyl thiophene-2-imidate hydrochloride (10 g, 0.05 mol) and triethylamine (5 g, 0.05 mol) in tetrahydrofuran (300 ml) is heated to reflux for 8 hours. The mixture is dissolved in ethyl acetate and water. The aqueous layer is extracted twice with ethyl acetate. The combined ethyl acetate solutions are washed twice with dilute aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated to dryness to obtain a viscous, partly crystalline material (10 g). This material is triturated with ether to obtain crystals (5 g) of m.p. 150°. These crystals are dissolved in hot acetonitrile and the solution is filtered and allowed to cool. The crystals (3.4 g) are filtered off, washed with acetonitrile and dried in vacuo; m.p. 156°-158° C.

reactant | norphenylephrine hydrochloride | 0.05 mol, 10 g | C1=CC(=CC(=C1)O)C(CN)O.Cl
reactant | ethyl thiophene-2-imidate hydrochloride | 0.05 mol, 10 g | Cl.S1C(=CC=C1)C(OCC)=N
reactant | triethylamine | 0.05 mol, 5 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4,5-Dihydro-5-(3-hydroxyphenyl)-2-(2-thienyl)-1,3-oxazole | 10 g | OC=1C=C(C=CC1)C1CN=C(O1)C=1SC=CC1 | C13H11NO2S
